US08008293B2
Synthesis of (6R,9aR)-1-methyl-6-(3,4,5-trifluorophenyl)tetrahydro-[1,4]oxazino[3,4-c][1,4]oxazin-3,4-dione
Under ice-cooling, oxalyl chloride (0.27 mL) was added dropwise into a dichloromethane (5 mL) solution containing 1-[(3S,5R)-5-(3,4,5-trifluorophenyl)morpholin-3-yl]ethanol (269 mg) and pyridine (5 mL). Stirring was continued for 30 minutes at the same temperature and for 1 hour at room temperature. Water was added, and the organic layer was partitioned, and the resultant was dried over anhydrous magnesium sulfate. The solvent was removed under a vacuum, and the resultant was purified by silica gel column chromatography (heptane/ethyl acetate→ethyl acetate), and the title compound (136 mg) was obtained. The physical property values are as follows.

reactant | oxalyl chloride | 0.27 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | 1-[(3S,5R)-5-(3,4,5-trifluorophenyl)morpholin-3-yl]ethanol | 269 mg | FC=1C=C(C=C(C1F)F)[C@@H]1COC[C@H](N1)C(C)O | C12H14F3NO2
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | (6R,9aR)-1-methyl-6-(3,4,5-trifluorophenyl)tetrahydro-[1,4]oxazino[3,4-c][1,4]oxazin-3,4-dione | 136 mg | CC1OC(C(N2[C@@H]1COC[C@H]2C2=CC(=C(C(=C2)F)F)F)=O)=O | C14H12F3NO4
